US04289776
60 g of 3-n-butyl-7-(5'-oxohexyl)-xanthine are added to a solution of 8 g of sodium hydroxide in 160 ml of a methanol/water mixture (1:1). 28 g of methyl iodide are dropwise added to the clear solution having a temperature of 40° C. and the mixture is stirred at 48° C. for 24 hours. After concentration under reduced pressure the residue is diluted with 300 ml of diethylether and the unreacted 3-(n-butyl)-7-(5'-oxohexyl)-xanthine is removed by shaking with 1 N sodium hydroxide. After neutralisation, drying, concentration under reduced pressure and distillation at 140° C. temperature of the mixture and 0.02 mmHg 48.5 g of 1-methyl-3-(n-butyl)-7-(5'-oxohexyl)-xanthine are obtained from the ether phase as a viscous oil (nD20 =1.5320; yield 77.2%, referred to reacted starting xanthine). Analysis: C16H24N4O3 =320.396

reactant | 3-n-butyl-7-(5'-oxohexyl)-xanthine | 60 g | C(CCC)N1C(NC(C=2N(C=NC12)CCCCC(C)=O)=O)=O | C15H22N4O3
reactant | sodium hydroxide | 8 g | [OH-].[Na+]
reactant | methyl iodide | 28 g | CI | CH3I
solvent | methanol water | 160 ml | CO.O
product | xanthine | yield 77.2% | N1C(=O)NC=2N=CNC2C1=O | C5H4N4O2
